US04670553
(S)-[1-[[[[(Acetyl)methylamino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester
(S)-3-[[(Phenylmethoxy)carbonyl]amino]-2-azetidinone (2.2 g) was suspended in 100 ml of anhydrous tetrahydrofuran and cooled to -50° C. with stirring. Chlorosulfonylisocyanate (1.56 g) was added and the temperature was maintained at 0° C. for 30 minutes. After this time 3.51 g of heptamethyl disilazane was added and stirring at room temperature was continued overnight. Acetyl chloride (3.14 g) was added and the solution was stirred for an additional 48 hours. The solvent was removed in vacuo, and the residue dissolved in ethyl acetate and extracted twice with 50 ml portions of water. The aqueous layer was discarded and the ethyl acetate solution was dried with Na2SO4 and evaporated to dryness. The residue was dissolved in acetone/water (9:1), the pH adjusted to 6.5 with 1N KOH and the acetone removed in vacuo. The remaining aqueous solution was freeze-dried. The resulting crude compound (1.9 g) was purified by HP-20 chromatography, yielding 1.03 g of product.

reactant | (S)-3-[[(Phenylmethoxy)carbonyl]amino]-2-azetidinone | 2.2 g | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
reactant | Chlorosulfonylisocyanate | 1.56 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | heptamethyl disilazane | 3.51 g | C[Si](N([Si](C)(C)C)C)(C)C | C7H21NSi2
reactant | Acetyl chloride | 3.14 g | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (S)-[1-[[[[(Acetyl)methylamino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | 1.03 g | C(C)(=O)CNS(=O)(=O)NC(=O)N1C([C@H](C1)NC(OCC1=CC=CC=C1)=O)=O | C15H18N4O7S
